Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9]([H:10])([H:11])[H:12].[H:8],3.0331385446200003
[O:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[O:1]=[O:2],1.5224010690399998
[C:5]([H:6])[C:7]([H:8])([H:9])[H:10].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[H:10],-5.42274811979
[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[C:7]([H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2]([H:3])[O:4][C:5][H:6],5.32483282855
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]=[O:7],3.98384818629
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:7]([H:8])([H:9])[O:10][H:11].[H:1][O:2][C:3]([H:4])=[C:5][H:6],4.23002456021
[C:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10][H:11]>>[C:10][H:11].[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])=[C:8][H:9],6.40934818336
[H:1][C:2]([H:3])[O:4][C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][H:3].[O:4]=[C:5]/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],2.39839464131
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:7][C:8]#[C:9]>>[C:1](=[C:2]([H:3])[C:5]#[C:8][C:9])([H:4])[H:6].[C:7],2.9202753841900004
[H:4].[O:1]=[C:2]([H:3])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[O:1][C:2]([H:3])([H:4])[C:5][O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-1.33604290479
[C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-4.89830691698
[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-4.392095573430002
[H:1][C:2]([H:3])([H:4])[C:5]([H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20].[H:7]>>[H:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([C:13]([H:14])([H:15])[H:16])[C:17]([H:18])([H:19])[H:20],-4.37651198407
[O:1][C:2](=[O:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])=[C:6]([H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]=[O:3],0.14516778722100002
[H:1].[O:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])[H:14],-1.53346833701
[H:1][O:2][C:3]([H:4])([H:5])/[C:6]=[C:7]1\[O:8][C:9]1([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:9]([O:8])([H:10])[H:11],-0.23280989311
[H:11].[H:1][C:2][O:3]/[C:4]([C:5]([H:6])([H:7])[H:8])=[C:9](/[H:10])[O:12][H:13]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-1.8576623896
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:8]=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:8][C:9]([H:10])[H:11].[H:7],4.061447311469999
[H:1][C:2](/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:2](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])\[C:14]([H:15])([H:16])[H:17].[H:1][C:3][C:10]([H:11])([H:12])[H:13],5.69429721405
[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][H:8]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-7.57992520455
[H:15].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-1.89817111756
[O:1]=[C:2]([H:3])[O:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])[H:13]>>[O:1][C@@:2]1([H:3])[O:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]1([H:12])[H:13],0.7014583355410001
[C:1]#[C:2][C:3]([H:4])=[O:5].[C:6]([H:7])[O:8][H:9]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[O:8][H:9],-2.6142629966
[C:1]#[C:2][C:3]([H:4])[C:6]#[C:7][H:8].[H:5]>>[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]#[C:7][H:8],-2.43185154632
[C:1]=[C:2]([O:3][C:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[H:8].[C:9]([H:10])([H:11])[H:12],3.612507489
[C:7]#[C:8][H:9].[O:1][O:2][C:3][C:4]([H:5])[H:6]>>[O:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-3.16012485682
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7]/[C:9]([H:10])([H:11])[O:12][H:13].[H:8]>>[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-4.90050085894
[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][H:7])[C:11]([C:8]([H:9])[H:10])([H:12])[H:13]>>[H:1][O:2][C@@:3]1([H:4])[C:5]=[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13],-0.92729920222
[H:1].[O:2]=[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2]/[C:3]=[C:4]([H:5])/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13],-1.02353518377
